US07989449B2
3-Bromo-5-(2,2,2-trifluoro-ethoxy)-benzonitrile
In analogy to the procedure described in WO2007060448, the reaction of 3-bromo-5-fluorobenzonitrile with 2,2,2-trifluoro-ethanol using sodium bis(trimethylsilyl)amide as the base yielded the title compound as a white solid (yield: 77% of theory).

reactant | 3-bromo-5-fluorobenzonitrile | BrC=1C=C(C#N)C=C(C1)F | C7H3BrFN
reactant | 2,2,2-trifluoro-ethanol | FC(CO)(F)F | C2H3F3O
reactant | sodium bis(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
product | 3-Bromo-5-(2,2,2-trifluoro-ethoxy)-benzonitrile | yield: 77% | BrC=1C=C(C#N)C=C(C1)OCC(F)(F)F | C9H5BrF3NO
